US07501538B2
(S)-3-(4-benzyloxy-phenyl)-2-(5-bromo-2-hydroxy-benzoylamino)-propionic acid methyl ester (750 mg, 1.5 mmol) was dissolved in 30 mL of MeOH, 100 mg of 10% Pd/C added, and the mixture stirred for 2.5 h under 40 psi of H2. The mixture was filtered and solvent evaporated. The resulting residue was dissolved in DCM, washed with saturated NaHCO3, dried over sodium sulfate and evaporated to give (S)-2-(2-hydroxy-benzoylamino)-3-(4-hydroxy-phenyl)-propionic acid methyl ester (409 mg).

reactant | (S)-3-(4-benzyloxy-phenyl)-2-(5-bromo-2-hydroxy-benzoylamino)-propionic acid methyl ester | 1.5 mmol, 750 mg | COC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)O)=O)=O | C24H22BrNO5
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (S)-2-(2-hydroxy-benzoylamino)-3-(4-hydroxy-phenyl)-propionic acid methyl ester | 409 mg | COC([C@H](CC1=CC=C(C=C1)O)NC(C1=C(C=CC=C1)O)=O)=O | C17H17NO5
